US05028716
To a suspension of 0.24 g of sodium hydride in 40 ml of N,N-dimethylformamide was added dropwise a solution of 1.27 g of 2-cyanoiminothiazolidine in 10 ml of N,N-dimethylformamide, and the mixture was stirred at room temperature for 30 minutes. After stirring, 1.27 g of benzyl chloride was added, and the mixture was stirred at temperature for 2 hours. After the reaction, the solvent was evaporated under reduced pressure, water was added to the residue, and the resulting crystals were then collected by filtration to give 1.84 g of 3-benzyl-2-cyanoiminothiazolidine.

reactant | sodium hydride | 0.24 g | [H-].[Na+]
reactant | 2-cyanoiminothiazolidine | 1.27 g | C(#N)N=C1SCCN1 | C4H5N3S
reactant | benzyl chloride | 1.27 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-benzyl-2-cyanoiminothiazolidine | 1.84 g | C(C1=CC=CC=C1)N1C(SCC1)=NC#N | C11H11N3S
